US05688946
A solution of 1.5 g (2.24 mmol) of tert-butyl [(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-butenyl]carbamate, prepared according to the procedure of J. J. Plattner et al. in J. Med. Chem., 30, (10), (1987), 1729, in 10 ml of pyridine is treated with 845 mg (3.36 mmol) of osmium tetroxide and left to stand at room temperature in the dark for 3 days. Subsequently, the reaction mixture is cooled to 0°, treated with 3 ml of 38% sodium bisulphite solution and stirred for 2 hours. Thereafter, the mixture is poured on to ice and water and extracted three times with 250 ml of ethyl acetate. The combined organic extracts are washed in succession with in each case 60 ml of sodium bicarbonate solution, 20% copper sulphate solution and saturated sodium chloride solution, dried over magnesium sulphate and evaporated under reduced pressure. For purification, the residue (1.20 g) is chromatographed on 30 g of silica gel using a 100:10:1 mixture of methylene chloride, methanol and ammonia as the eluent, whereby there are obtained 590 mg of tert-butyl [(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3,4-trihydroxybutyl]carbamate as a foam, MS: 318 (M+H)+.

reactant | tert-butyl [(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-butenyl]carbamate | 2.24 mmol, 1.5 g | C1(CCCCC1)C[C@@H]([C@H](C=C)O)NC(OC(C)(C)C)=O | C16H29NO3
reactant | sodium bisulphite | 3 ml | S([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | osmium tetroxide | 3.36 mmol, 845 mg | [Os](=O)(=O)(=O)=O
product | tert-butyl [(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3,4-trihydroxybutyl]carbamate | 590 mg | C1(CCCCC1)C[C@@H]([C@H](C(CO)O)O)NC(OC(C)(C)C)=O | C16H31NO5
